US06953806B2
A solution of 200 mg (0.672 mmol) trans{2-[4-(3-hydroxy-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid tert-butyl ester in 2 ml 4M hydrogen chloride solution in dioxane was stirred for 30 minutes at room temperature. The reaction mixture was then concentrated under reduced pressure. The crude HCl-salt was triturated two times with dry ether and the crystalline product then dried for several hours at 45° C. and 15 mbar to give 155 mg (98.6%) of pure trans-3-[4-(2-methylamino-ethyl)-cyclohexyl]-(E)-prop-2-en-1-ol HCl-salt as colorless cristalls, MS: 198 (MH+).

reactant | trans{2-[4-(3-hydroxy-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 0.672 mmol, 200 mg | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)\C=C\CO)=O | C17H31NO3
reactant | hydrogen chloride | 4M, 2 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | trans-3-[4-(2-methylamino-ethyl)-cyclohexyl]-(E)-prop-2-en-1-ol HCl-salt | 155 mg, 98.6% | Cl.CNCC[C@@H]1CC[C@H](CC1)/C=C/CO | InChI=1S/C12H23NO.ClH/c1-13-9-8-12-6-4-11(5-7-12)3-2-10-14;/h2-3,11-14H,4-10H2,1H3;1H/b3-2+;/t11-,12-;
